US05958942
1,2-Dihydro-3-methyl-1-[3-(phthalimido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one
To a suspension of 8.66 g (50 mmol) of 1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one in 100 ml of DMF was added, while stirring under ice-cooling, 2.20 g (55 mmol) of 60% sodium hydride (dispersion in oil). The mixture was stirred for 20 minutes at the same temperature. To the reaction mixture was added 13.14 g (50 mmol) of N-(3-bromopropyl)phthalimide. The mixture was stirred for 7 hours at 100° C. After cooling, the reaction mixture was poured into water, which was subjected to extraction with chloroform. The extract was dried over anhydrous magnesium sulfate, and, the solvent was then distilled off. The residue was crystallized from methylene chloride--ethanol to give 5.72 g of the desired compound (31.7%, pale brown solid substance).

reactant | 1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 50 mmol, 8.66 g | CC=1N=C2N3C1C(NC3=CC=C2)=O | C9H7N3O
reactant | sodium hydride | 55 mmol, 2.20 g | [H-].[Na+]
reactant | N-(3-bromopropyl)phthalimide | 50 mmol, 13.14 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1,2-Dihydro-3-methyl-1-[3-(phthalimido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 5.72 g, 31.7% | CC=1N=C2N3C1C(N(C3=CC=C2)CCCN2C(C=3C(C2=O)=CC=CC3)=O)=O | C20H16N4O3
